US06277871B1
N-benzyl-N-(4-thiazolylmethyl)chloroacetamide
4-Chloromethylthiazole (1.33 g, 10.0 mmol) and benzylamine (2.2 mL, 20.0 mmol) were mixed together and heated to 80° C. for 24 hours and allowed to cool to room temperature. The solid mass was treated with 2M aqueous sodium carbonate and stirred until the mass was broken up and the mixture was extracted with 2 portions of ethyl ether. The combined organic extracts were dried (Na2SO4), filtered, and concentrated. The residue was dissolved in 40 mL of dichloromethane, cooled to 0° C., and 40 mL of saturated, aqueous NaHCO3 was added. To this stirred biphasic mixture was added chloroacetyl chloride (1.8 mL, 22.0 mmol) dropwise and mixture was stirred for an additional 2 hours at 0° C. The layers were separated and the organic phase was dried (Na2SO4), filtered, and concentrated. The residue was purified by column chromatography (silica gel, 30% -50% ethyl acetate/hexanes) to provide first, 0.58 g (21%) N-benzylchloroacetamide followed by 0.76 g (27%) of the title compound.

reactant | 4-Chloromethylthiazole | 10.0 mmol, 1.33 g | ClCC=1N=CSC1 | C4H4ClNS
reactant | benzylamine | 20.0 mmol, 2.2 mL | C(C1=CC=CC=C1)N | C7H9N
reactant | sodium carbonate | 2M | C([O-])([O-])=O.[Na+].[Na+]
reactant | chloroacetyl chloride | 22.0 mmol, 1.8 mL | ClCC(=O)Cl | C2H2Cl2O
reactant | N-benzylchloroacetamide | 0.58 g | C(C1=CC=CC=C1)NC(CCl)=O | C9H10ClNO
product | N-benzyl-N-(4-thiazolylmethyl)chloroacetamide | 0.76 g, 27% | C(C1=CC=CC=C1)N(C(CCl)=O)CC=1N=CSC1 | C13H13ClN2OS
